US05849912
Synthesis of 2-cyanophenylboric acid
12.4 ml of a 1.6M solution of t-butyllithium in n-pentane was dropwise added to 23 ml of THF at -76° C. in about 10 minutes. Then, a solution of 2.0 g (11.0 mmol) of 2-bromobenzonitrile in 3.0 ml of THF was dropwise added to the resulting mixture at -76° C. in about 20 minutes, followed by the dropwise addition of 2.3 ml (19.8 mmol) of trimethoxyborane in 7 minutes. The obtained mixture was stirred at -76° C. for 20 minutes, followed by the addition of 13.8 ml of 2N hydrochloric acid. The obtained mixture was stirred at room temperature for 30 minutes and extracted with ethyl acetate. The ethyl acetate phase was washed with water and a saturated brine, dried and distilled to remove the solvent. 15 ml of methylene chloride and 15 ml of n-hexane were added to the obtained residue. The obtained mixture was stirred at room temperature for 30 minutes to give a precipitate. The precipitate was recovered by filtration and dried to give 0.9 g of the title compound (yield: 55.7%).

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | 2-bromobenzonitrile | 11.0 mmol, 2.0 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | trimethoxyborane | 19.8 mmol, 2.3 ml | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2N, 13.8 ml | Cl | ClH
solvent | n-pentane | CCCCC | C5H12
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | 2-cyanophenylboric acid | 0.9 g, yield: 55.7% | C(#N)C1=C(C=CC=C1)OB(O)O | C7H6BNO3
